US07365085B2
c) 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-((S)-2-phenyl-propyl)-amino]-propoxy}-phenyl)-2-methyl-propionic acid hydrochloride salt
A solution of 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-((S)-2-phenyl-propyl)-amino]-propoxy}-phenyl)-2-methyl-propionic acid methyl ester (30 mg, 0.05 mmol) in DMF (9 ml) was treated with LiCl (20 mg, 0.46 mmol). The resulting reaction mixture was heated to reflux overnight and concentrated under vacuum. The crude product was purified by HPLC (YMC CombiPrep ODS-A, 50×20 mm, 20 mL/min, A: acetonitrile B: water, A: 60 to 100% during 10 min, UV detection at 254 nm) to give the title compound free amine as an oil (15 mg, 45%). MS m/e 548.2(M+H)+. To a solution of the free amine in diethyl ether was added HCl in diethyl ether (1.0M) to precipitate the amine salt. The suspension was filtered and dried to give the title compound as a white solid.

reactant | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-((S)-2-phenyl-propyl)-amino]-propoxy}-phenyl)-2-methyl-propionic acid methyl ester | 0.05 mmol, 30 mg | COC(C(C)(C)C1=CC(=CC=C1)OCCCN(C[C@@H](C)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C31H35ClF3NO3
reactant | LiCl | 0.46 mmol, 20 mg | [Li+].[Cl-]
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
product | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-((S)-2-phenyl-propyl)-amino]-propoxy}-phenyl)-2-methyl-propionic acid hydrochloride salt | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)C(C(=O)O)(C)C)C[C@@H](C)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C30H33ClF3NO3.ClH/c1-21(22-10-5-4-6-11-22)19-35(20-23-12-7-15-26(27(23)31)30(32,33)34)16-9-17-38-25-14-8-13-24(18-25)29(2,3)28(36)37;/h4-8,10-15,18,21H,9,16-17,19-20H2,1-3H3,(H,36,37);1H/t21-;/m1./s1
